Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[H:9][H:12].[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:10])=[C:5]([H:11])[C:6]([H:13])([H:14])[N:7]1[H:15],99.16084469496441
[C:1]([C@@:2]([C:4]([O:3][H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],82.89429195753402
[C-:3](=[O+:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12].[C:1]([C:2]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],12.316896826255793
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2](\[C+:7]=[C:6]([O-:5])[H:9])[H:10])\[H:8].[N:3]#[N:4],64.483006790384
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]1([H:7])=[N+:6]=[C-:5][C@@:4]2([H:13])[C@:2]1([H:10])[C:3]2([H:11])[H:12].[H:8][H:9],121.755584817219
[C:1]([C:2]([C:3]([C@@:4]1([C:5]([H:16])([H:17])[H:18])[C:6][N:7]1[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],22.032924342868
[N:1]([C@@:2]1([H:10])[C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:12])[N:7]([H:11])[C:6]1)([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],54.73619134106828
[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C:6]([C:4]#[C:5][H:12])=[C:7]1[H:13])([H:9])[H:10])[H:8],92.34121051920508
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]1=[C:7]([H:9])[H:17],77.1783788443248
[C+:1]1([H:8])[C:2]([H:9])=[C-:3][C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13].[H:7][H:10]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],35.96506584108471
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][H:11])([C:6]#[N:7])[C:4][C:5]1([H:9])[H:12],90.9948658015161
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:11])[H:12].[H:13][H:14],57.4953618984066
[C:1]([C:2]([N+:6]#[C:5][C:4]#[C-:3])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],70.33716473268228
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1](=[C:2]=[C:3]=[N+:7]=[N-:6])[C:4](=[O:5])[H:8],59.150160819684295
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[c:3]1/[n:4]([H:11])[n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:8])([H:9])[H:10],55.4695090108327
[C:1](=[C:2]([H:9])[H:10])([H:6])[H:7].[O:3]=[C:4]([O:5][H:8])[H:11]>>[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],26.216688089646
[H:12][H:13].[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C-:5]=[O+:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],25.578969853827004
[C:1]([C:2]([C-:3]([N+:7]#[N:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]=[N:5][H:14]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],49.79435693369898
[C:1](/[C:2](=[C:4](/[C:5]#[N:6])[H:12])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],40.7987036706367
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])[H:12])([H:8])([H:9])[H:10],57.7746188198168
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[C:3]([C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])[H:10])([H:8])[H:9],72.10227895483729
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]#[C:2][H:8].[O:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:7],58.7504476892653
[C:1]([C+:2]([N:3]([O-:4])[H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[N:3][O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],41.85252718295063
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]=[C:6]=[N:7][C:3]([C:4]#[C:5][H:10])([H:8])[H:9],70.21198234381761
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[C-:5]#[O+:6].[O:1]([C:2]([C:4]([C:3](=[C:7]([H:14])[H:15])[H:11])([H:12])[H:13])([H:9])[H:10])[H:8],72.80163069832949
